* Revision 20 exploratory LTspice run from the revision 19 clamp graph.
* Model: LT4363-1 and FDB33N25 from ADI LTspice 26.0.2 library.
* D1 uses the bundled 1N4148 model as a surrogate for 1N4148W.
* A 130 ohm resistive load and 0.5 ohm source are declared test inputs,
* not the converter startup model or qualified source envelope.
* C3/C4 are conditional allocation endpoints, not all-life part guarantees.
* Cdown is an ideal 18 uF upper allocation, not a measured ceramic minimum.
Vsrc SOURCE 0 PWL(0 0 1m 0 1.01m 15 6 15)
Rsrc SOURCE AUX_RAW 0.5
Rshdn AUX_RAW SERVICE_RESET_N 1
R1 SNS AUX_PROTECTED 0.22
R2 AUX_PROTECTED FB 59k
R3 FB 0 4.99k
R4 AUX_RAW UV 91k
R5 UV 0 10k
R6 GATE_DRV Q_GATE 10
R7 GATE_DRV CG 100
C1 AUX_RAW 0 100n
C2 TMR 0 100n
C3 CG 0 {Cg}
C4 AUX_PROTECTED 0 {Cbulk}
Cdown AUX_PROTECTED 0 18u
D1 GATE_DRV CG 1N4148
M1 AUX_RAW Q_GATE SNS SNS FDB33N25
Rload AUX_PROTECTED 0 130
XU1 FB AUX_PROTECTED SNS GATE_DRV AUX_RAW SERVICE_RESET_N UV 0 FLT ENOUT TMR LT4363-1
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.lib LT4363-1.sub
.step param Cg list 1.3u 1.7u
.step param Cbulk list 198u 495u
.tran 0 6 0 100u startup
.meas TRAN driver_peak MAX V(AUX_PROTECTED) FROM 0 TO 6
.meas TRAN tmr_peak MAX V(TMR) FROM 0 TO 6
.meas TRAN output_at_6s FIND V(AUX_PROTECTED) AT 6
.meas TRAN output_13p5_cross WHEN V(AUX_PROTECTED)=13.5 RISE=1
.backanno
.end
